US07253158B2
4) (5-Methoxy-pyridin-2-yl)-methanol
Acetic acid 5-methoxy-pyridin-2-ylmethyl ester (10.5 g, 58 mmol) was dissolved in HCl (25%, 30 ml) and the resultant reaction mixture was stirred at ca. 105° C. for 80 min under an argon atmosphere. Solid NaHCO3 was added in portions followed by aqueous K2CO3 solution to achieve an alkaline pH 10. This resultant mixture was extracted with ethyl acetate (4×) and the combined organic extracts were washed with water, brine, dried (MgSO4) filtered and then concentrated under reduced pressure. The crude oil was purified over silica gel (ethyl acetate/n-heptane 1:1 to 2:1): yellow solid 4.8 g (56%);

reactant | Acetic acid 5-methoxy-pyridin-2-ylmethyl ester | 58 mmol, 10.5 g | COC=1C=CC(=NC1)COC(C)=O | C9H11NO3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | HCl | 30 ml | Cl | ClH
product | (5-Methoxy-pyridin-2-yl)-methanol | COC=1C=CC(=NC1)CO | C7H9NO2
